US09403801B2
Step 1) tert-butyl 9-((5-chloro-2-((1-(cyclopropylmethyl)-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate
To a solution of tert-butyl 9-[(2,5-dichloropyrimidin-4-yl)amino]-3-azaspiro[5.5]undecane-3-carboxylate (500.5 mg, 1.21 mmol) and 1-(cyclopropylmethyl)-1H-pyrazol-4-amine (330.5 mg, 2.41 mmol) in 1,4-dioxane (50 mL) was added trifluoroacetic acid (686.5 mg, 6.02 mmol). The mixture was stirred at 100° C. overnight and concentrated in vacuo. The residue was purified with a silica gel column chromatography (PE/EtOAc (v/v)=1/1 to DCM/MeOH (v/v)=7/1) to give the product as a light yellow solid (550 mg, 88.45%).

reactant | tert-butyl 9-[(2,5-dichloropyrimidin-4-yl)amino]-3-azaspiro[5.5]undecane-3-carboxylate | 1.21 mmol, 500.5 mg | ClC1=NC=C(C(=N1)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)Cl | C19H28Cl2N4O2
reactant | 1-(cyclopropylmethyl)-1H-pyrazol-4-amine | 2.41 mmol, 330.5 mg | C1(CC1)CN1N=CC(=C1)N | C7H11N3
reactant | trifluoroacetic acid | 6.02 mmol, 686.5 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 9-((5-chloro-2-((1-(cyclopropylmethyl)-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 550 mg, 88.45% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)CC1CC1)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C26H38ClN7O2
